US07169926B1
To a solution of [3-(5-ethyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]pyridin-2-yl)-cyclohexyl]-carbamic acid benzyl ester (0.1 g, 0.25 mmol) in DMF (3 mL) were added Cs2CO3 (0.17 g, 0.51 mmol) and 60 mg (0.30 mmol) of 2-cyanobenzyl bromide as a solution in 3 mL of DMF. After stirring at room temperature for 17 h, the reaction mixture was diluted with water (10 mL) then extracted with CH2Cl2. The combined extracts were dried with MgSO4, and concentrated in vacuo. The crude product was purified by flash chromatography, eluting with 1% MeOH in CH2Cl2 to give {3-[3-(2-cyano-benzyl)-5-ethyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]pyridin-2-yl]-cyclohexyl}-carbamic acid benzyl ester (70 mg, 54% yield). 1H-NMR (CDCl3): δ 7.73 (m, 1H), 7.49 (m, 1H), 7.34 (m, 6H), 7.13 (m, 1H), 6.89 (d, 1H, J=8.4 Hz), 6.69 (m, 1H), 6.19 (m, 1H), 5.94 (m, 1H), 5.06 (s, 2H), 4.73 (m, 1H), 4.07 (m, 2H), 3.58 (m, 1H), 2.79 (m, 1H), 2.02 (m, 2H), 1.87 (m, 1H), 1.68 (m, 2H), 1.51 (m, 2H), 1.38 (t, 3H, J=7.2 Hz), 1.16 (m, 1H). MS: calculated for C30H31N5O3+H 510.3; found: 510.5.

reactant | [3-(5-ethyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]pyridin-2-yl)-cyclohexyl]-carbamic acid benzyl ester | 0.25 mmol, 0.1 g | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C1=NC2=C(C(N(C=C2)CC)=O)N1)=O | C22H26N4O3
reactant | Cs2CO3 | 0.51 mmol, 0.17 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-cyanobenzyl bromide | 0.30 mmol, 60 mg | C(#N)C1=C(CBr)C=CC=C1 | C8H6BrN
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | {3-[3-(2-cyano-benzyl)-5-ethyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]pyridin-2-yl]-cyclohexyl}-carbamic acid benzyl ester | 70 mg, 54% yield | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C1=NC2=C(C(N(C=C2)CC)=O)N1CC1=C(C=CC=C1)C#N)=O | C30H31N5O3
